US04625047
Parenteral Solution of Sodium [2,3-dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetate
[2,3-Dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid (500 mg) is dissolved by stirring and warming with 0.25 N sodium bicarbonate solution (5.4 ml). The solution is diluted to 10 ml and sterilized by filtration. All the water that is used in the preparation is pyrogen-free. The concentration of the active agent in the final solution is 5%.

reactant | [2,3-Dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 500 mg | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CC(C1)C)=O | C15H14Cl2O4
reactant | sodium bicarbonate | 0.25 N, 5.4 ml | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | Sodium [2,3-dichloro-4-(5-methyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetate | ClC1=C(OCC(=O)[O-])C=CC(=C1Cl)C1=CC(CC(C1)C)=O.[Na+] | InChI=1S/C15H14Cl2O4.Na/c1-8-4-9(6-10(18)5-8)11-2-3-12(15(17)14(11)16)21-7-13(19)20;/h2-3,6,8H,4-5,7H2,1H3,(H,19,20);/q;+1/p-1
